US07915424B2
(b) 4-Ethynyl-1,2-difluorobenzene
Add potassium carbonate (719 mg, 5.2 mmol) to a solution of (3,4-difluorophenylethynyl)-trimethylsilane (2.20 g, 10.4 mmol) in ethanol (30 mL). Stir at room temperature for 16 h. Neutralize with 10% aqueous hydrochloric acid. Add water and extract the product with hexanes. Concentrate hexanes slowly in a cooled water bath (˜10° C.) to give the title compound (1.10 g, 76%).

reactant | potassium carbonate | 5.2 mmol, 719 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3,4-difluorophenylethynyl)-trimethylsilane | 10.4 mmol, 2.20 g | FC=1C=C(C=CC1F)C#C[Si](C)(C)C | C11H12F2Si
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-Ethynyl-1,2-difluorobenzene | 1.10 g, 76% | C(#C)C1=CC(=C(C=C1)F)F | C8H4F2
